US04797498
8-(2,3-Epoxypropoxy)flavone (Method A)
8-Hydroxyflavone (17.9 g, 75 mmol) (see Awad et al, J. Org. Chem., 25, 1333 (1960)) was suspended in a solvent consisting of 22 ml of water and 135 ml of isopropanol. Epichlorohydrin (59 ml, 75 mmol) and NaOH (3.0 g, 75 mmol) were added and the reaction mixture was heated at 70° C. for 31/2 hours. The reaction mixture was then cooled and filtered, and the solvent was removed under reduced pressure. The residue was taken up in 600 ml of CH2Cl2, washed twice with 600 ml of H2O, dried and the remaining solvent was removed by evaporation. This gave 21.9 g of light tan solid (99% yield). The product was used in the next step without further purification.

reactant | 8-Hydroxyflavone | 75 mmol, 17.9 g | OC=1C=CC=C2C(C=C(OC12)C1=CC=CC=C1)=O | C15H10O3
reactant | water | 22 ml | O | H2O
reactant | Epichlorohydrin | 75 mmol, 59 ml | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | 75 mmol, 3.0 g | [OH-].[Na+]
solvent | isopropanol | 135 ml | C(C)(C)O | C3H8O
product | 8-(2,3-Epoxypropoxy)flavone | 99% yield | O1C(COC=2C=CC=C3C(C=C(OC23)C2=CC=CC=C2)=O)C1 | C18H14O4
